US04960775
A stirred solution of 1-cyano-2-isobutyryl-1,2-dihydrophthalazine (12.6 g) in glacial acetic acid (50 ml) at 60° C. was treated with an aqueous solution of fluoroboric acid (48% w/v; 50 ml). After stirring for 15 minutes the mixture was chilled to 15° C. and stirring was continued for a further period of 1 hour. The solid which separated was collected, washed thoroughly with diethyl ether, and dried, to give 1-amino-3-isopropyloxazolo[4,3-a]phthalazinium tetrafluoroborate (15.58 g) in the form of a bright yellow solid, m.p. 180°-182° C. [NMR (in DMSO-d6) : 1.42 (6H, d, J=7 Hz), 3.74 (1H, septet, J=7 Hz), 7.50-7.60 (1H, m), 7.85-8.05 (3H, m), 8.12 (2H, broad singlet), 8.99 (1H, s)].

reactant | 1-cyano-2-isobutyryl-1,2-dihydrophthalazine | 12.6 g | C(#N)C1N(N=CC2=CC=CC=C12)C(C(C)C)=O | C13H13N3O
reactant | fluoroboric acid | 50 ml | F[B-](F)(F)F.[H+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 1-amino-3-isopropyloxazolo[4,3-a]phthalazinium tetrafluoroborate | 15.58 g | F[B-](F)(F)F.NC=1OC(=[N+]2C1C1=CC=CC=C1C=N2)C(C)C | InChI=1S/C13H14N3O.BF4/c1-8(2)13-16-11(12(14)17-13)10-6-4-3-5-9(10)7-15-16;2-1(3,4)5/h3-8H,14H2,1-2H3;/q+1;-1
